US07291744B2
Step d: Preparation of benzyl((1R,2S)-2-{[((2RS)-6-fluoro-1,2,3,4-tetrahydronaphthalen-2-yl)amino]methyl}cyclohexyl)carbamate
A mixture of (RS)-(6-fluoro-1,2,3,4-tetrahydronaphthalen-2-yl)amine hydrochloride (200 mg, 0.99 mmol) and benzyl [(1R,2R)-2-formylcyclohexyl]carbamate (258 mg, 0.99 mmol) in 1,2-dichloroethane (4 mL) was treated with triethylamine (275 μL, 1.98 mmol) whereupon a clear solution resulted. Sodium triacetoxyborohydride (272 mg, 1.28 mmol) was added and the mixture was stirred at room temperature for 3.5 hours. Aqueous sodium hydroxide (1.0 N) was then added, and the mixture was extracted with ether. The organic phase was dried over sodium sulfate and concentrated. The residue was purified by flash column chromatography, eluting with 5% methanol in dichloromethane, containing 0.5% aqueous ammonia, to provide a colorless oil (280 mg, 69%).

reactant | (RS)-(6-fluoro-1,2,3,4-tetrahydronaphthalen-2-yl)amine hydrochloride | 0.99 mmol, 200 mg | Cl.FC=1C=C2CCC(CC2=CC1)N
reactant | benzyl [(1R,2R)-2-formylcyclohexyl]carbamate | 0.99 mmol, 258 mg | C(=O)[C@H]1[C@@H](CCCC1)NC(OCC1=CC=CC=C1)=O | C15H19NO3
reactant | triethylamine | 1.98 mmol, 275 μL | C(C)N(CC)CC | C6H15N
reactant | Sodium triacetoxyborohydride | 1.28 mmol, 272 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1.0 N | [OH-].[Na+]
solvent | 1,2-dichloroethane | 4 mL | ClCCCl | C2H4Cl2
product | benzyl((1R,2S)-2-{[((2RS)-6-fluoro-1,2,3,4-tetrahydronaphthalen-2-yl)amino]methyl}cyclohexyl)carbamate | 280 mg, 69% | C(C1=CC=CC=C1)OC(N[C@H]1[C@@H](CCCC1)CNC1CC2=CC=C(C=C2CC1)F)=O | C25H31FN2O2
